US07625901B2
Step C. Methyl 1-amino-4,6-difluoroindane-1-carboxylate hydrochloride
A solution of 1-amino-4,6-difluoroindane-1-carboxylic acid hydrochloride (2.00 g, 15.5 mmol) in MeOH (100 mL) was saturated with HCl (g). The resulting mixture was heated at reflux for 20 h and concentrated in vacuo to provide the title compound. MS: m/z=228 (M+1).

reactant | 1-amino-4,6-difluoroindane-1-carboxylic acid hydrochloride | 15.5 mmol, 2.00 g | Cl.NC1(CCC2=C(C=C(C=C12)F)F)C(=O)O
reactant | HCl | Cl | ClH
reactant | MeOH | 100 mL | CO | CH4O
product | Methyl 1-amino-4,6-difluoroindane-1-carboxylate hydrochloride | Cl.NC1(CCC2=C(C=C(C=C12)F)F)C(=O)OC | InChI=1S/C11H11F2NO2.ClH/c1-16-10(15)11(14)3-2-7-8(11)4-6(12)5-9(7)13;/h4-5H,2-3,14H2,1H3;1H
